US04064236
Acetylalanylalanylproline (2 mmole) and N-methylmorpholine (2 mmole) are dissolved in dry tetrahydrofuran (200 ml) and cooled to -20° to -25°. Isobutyl chloroformate (2 mmole) is added, and the mixture is stirred at -20° for 10 minutes. A solution of 2-azaalanyl-dl-lactamide (2 mmole) in tetrahydrofuran (10 ml) is added dropwise, and the mixture is allowed to warm to room temperature over a period of 2 hours and stirred for a further 3 hours. The precipitate is filtered off and the filtrate is evaporated to dryness. Chromatography of the residue on silica gel (70 gm) and elution with 18% methanol in chloroform gives acetylalanylalanylprolyl-2-azaalanyl-dl-lactamide.

reactant | Acetylalanylalanylproline | 2 mmole | C(C)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H21N3O5
reactant | N-methylmorpholine | 2 mmole | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 2 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-azaalanyl-dl-lactamide | 2 mmole | NN(C)C(=O)C(C(=O)N)(O)C | C5H11N3O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | acetylalanylalanylprolyl-2-azaalanyl-dl-lactamide | C(C)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NN(C)C(=O)C(C(=O)N)(O)C)CCC1 | C18H30N6O7
